US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (350 mg, 1.0 mmol), (prepared as described for the starting material in Example 24), 4-(3-chloropropoxy)pyridine hydrochloride (206 mg, 1.0 mmol) and potassium carbonate (303 mg, 2.2 mmol) in NMP (20 ml) was heated at 90° C. for 2 hours. The mixture was allowed to cool, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol mixtures (100/0 increasing to 95/5) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-(4-pyridyloxy)propoxy)quinazoline (257 mg, 56%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.0 mmol, 350 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 4-(3-chloropropoxy)pyridine hydrochloride | 1.0 mmol, 206 mg | Cl.ClCCCOC1=CC=NC=C1
reactant | potassium carbonate | 2.2 mmol, 303 mg | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-(4-pyridyloxy)propoxy)quinazoline | 257 mg, 56% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCOC2=CC=NC=C2)C=C1)F | C23H20ClFN4O3
